US05082847
(E) 8-Phenylmethoxy-3,4-dihydro-5-[2-(4-((cyclopropylmethoxy)carbonylamino)-1-piperidyl)ethoxy]carbostyril
5-(2-chloroethoxy)-8-phenylmethoxy-3,4-dihydrocarbostyril (0.7 g), from Preparation 6, and cyclopropylmethyl 4-piperidylcarbamate (0.5 g) were dissolved in dimethylformamide (35 mL) containing potassium carbonate (0.3 g) and lithium bromide (0.3 g). The reaction medium was heated for 34 hours at 110° C., and the solvent was then removed by evaporation under reduced pressure. The residue was dissolved in chloroform (70 mL), and the solution was washed with water (2×40 mL), dried over sodium sulfate, and the solvent was evaporated under reduced pressure. Flash chromatography of the residue, using dichloromethane/methanol (90:10) as eluent, afforded 1 g of the title compound 8-phenylmethoxy-3,4-dihydro-5-[2-(4-((cyclopropylmethoxy)carbonylamino)-1-piperidyl)ethoxy]carbostyril as a yellow oil (ca. 95%).

reactant | 5-(2-chloroethoxy)-8-phenylmethoxy-3,4-dihydrocarbostyril | 0.7 g | ClCCOC1=C2CCC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C18H18ClNO3
reactant | cyclopropylmethyl 4-piperidylcarbamate | 0.5 g | N1CCC(CC1)NC(OCC1CC1)=O | C10H18N2O2
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium bromide | 0.3 g | [Br-].[Li+]
solvent | dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 8-Phenylmethoxy-3,4-dihydro-5-[2-(4-((cyclopropylmethoxy)carbonylamino)-1-piperidyl)ethoxy]carbostyril | 1 g | C1(=CC=CC=C1)COC=1C=CC(=C2CCC(NC12)=O)OCCN1CCC(CC1)NC(=O)OCC1CC1 | C28H35N3O5
